US06586441B2
2-Amino-4-pyrazol-1-yl-6-(pyridin-2-yl-methoxy)-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-pyrazol-1-yl-pyrimidine-5-carbonitrile, 2-(hydroxymethyl)pyridine and DBU in DME. ES-MS m/e (%): 294 (M+H+, 100).

reactant | 2-amino-4-methanesulfinyl-6-pyrazol-1-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)N1N=CC=C1 | C9H8N6OS
reactant | 2-(hydroxymethyl)pyridine | OCC1=NC=CC=C1 | C6H7NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-pyrazol-1-yl-6-(pyridin-2-yl-methoxy)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)N1N=CC=C1)C#N)OCC1=NC=CC=C1 | C14H11N7O
